US03975531
4-Benzoyl-3-methylthioindolin-2-one.
A solution of 30.6. (0.152 mole) of 3-aminobenzophenone in 160 ml. of methylene chloride was cooled to -78°C. in a dry ice/acetone bath and treated dropwise under a nitrogen atmosphere with a solution of 16.5 g. (0.152 mole) of t-butylhypochlorite in 60 ml. of methylene chloride. After stirring for 1 hr. after addition was complete, thin layer chromatography showed no starting material. A solution of 20.2 g. (0.152 mole) of ethyl α-(methylthio)acetate in 60 ml. of methylene chloride was added dropwise and stirring continued at -78°C. for 2.5 hr. A solution of 15.4 g. (0.152 mole) of triethylamine in 60 ml. of methylene chloride was added dropwise at -78°C. and the reaction mixture allowed to warm to room temperature while stirring for 16 hr. (overnight). The dark brown solution was treated with 100 ml. of 3N hydrochloric acid and stirred for 3 hrs. at room temperature. Precipitation of a tan solid began after 15-30 minutes. Filtration gave 18.5 g. of solid, m.p. 224°-228°C. (dec.). The layers of the filtrate were separated, the organic phase dried over magnesium sulfate, evaporated under reduced pressure, and the residue triturated in isopropyl ether (25 g.). The gummy solid was triturated in cold methanol to give 8.3 g. of product, m.p. 222°-225°C. (dec.). The total yield was 26.8 g. (62%). A 7.0 g. sample recrystallized from methanol weighed 5.6 g. and melted at 235°-237°C. (dec.).

reactant | 3-aminobenzophenone | 0.152 mole | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H11NO
reactant | t-butylhypochlorite | 0.152 mole | C(C)(C)(C)OCl | C4H9ClO
reactant | ethyl α-(methylthio)acetate | 0.152 mole | CSCC(=O)OCC | C5H10O2S
reactant | triethylamine | 0.152 mole | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Benzoyl-3-methylthioindolin-2-one | C(C1=CC=CC=C1)(=O)C1=C2C(C(NC2=CC=C1)=O)SC | C16H13NO2S
